US09315490B2
88b) (3-Ethyl-1H-indol-6-yl)(morpholino)methanone
1-(6-(Morpholine-4-carbonyl)-1H-indol-3-yl)ethanone (730 mg, 2.68 mmol) in acetic acid (1.53 ml, 26.8 mmol) and ethanol (50 ml) was hydrogenated in the presence of 10% Pd/C (285 mg, 0.27 mmol) for 72 h at room temperature, and then for 3 h at 50° C. After cooling to room temperature, the suspension was filtered over Celite and washed with ethanol. The solvent was evaporated and the residue repeatedly co-distilled with toluene and dichloromethane. White solid. Yield: 228 mg (33% of theory). HPLC-MS: m/z [M+H]+=259

reactant | 1-(6-(Morpholine-4-carbonyl)-1H-indol-3-yl)ethanone | 2.68 mmol, 730 mg | N1(CCOCC1)C(=O)C1=CC=C2C(=CNC2=C1)C(C)=O | C15H16N2O3
reactant | acetic acid | 26.8 mmol, 1.53 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.27 mmol, 285 mg | [Pd] | Pd
product | (3-Ethyl-1H-indol-6-yl)(morpholino)methanone | C(C)C1=CNC2=CC(=CC=C12)C(=O)N1CCOCC1 | C15H18N2O2
